US07576094B2
To a solution of 6-(methoxymethoxy)--5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one (2.0 g) in 20 mL of THF was added under stirring, NaH (1.38 g). After 5 minutes, 8.5 mL of methyl formate (137.4 mmol) were added dropwise to the mixture. The reaction was allowed to stir at room temperature overnight. The organic phase was washed with 1N HCl and water, dried over anhydrous MgSO4, and concentrated in vacuo to give 6-(methoxymethoxy)-5,7,8-trimethyl-4-oxo-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-3-carbaldehyde as a yellow paste. This intermediate was used directly for subsequent reactions without further purification.

reactant | 6-(methoxymethoxy)--5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 2.0 g | COCOC=1C(=C2C(CC3(CCC3)OC2=C(C1C)C)=O)C | C17H22O4
reactant | NaH | 1.38 g | [H-].[Na+]
reactant | methyl formate | 137.4 mmol, 8.5 mL | C(=O)OC | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(methoxymethoxy)-5,7,8-trimethyl-4-oxo-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-3-carbaldehyde | COCOC=1C(=C2C(C(C3(CCC3)OC2=C(C1C)C)C=O)=O)C | C18H22O5
